2129-12-18 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - given IV flagyl, PO vanco
   - CEs stable (trop 1.00 <-- 1.03 -->  1.04)
   - Cr improved 1.4 --> 1.3 --> 1.2
   - Transfused 1 unit of PRBCs given anemia, [** **], and hypotension
   - 1L NS bolus x 2 for low urine ouptut, low CVP
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-18**] 03:57 AM
   Vancomycin - [**2129-12-18**] 06:22 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-18**] 12:26 AM
   Other medications:
   Pantoprazole
   Flagyl 500 IV q 8 hours (day 1 [**12-17**])
   Fentanyl/Versed
   Lipitor 80 mg daily
   Celexa 20 mg daily
   ISS
   Aspirin 325
   Levophed rip
   HSQ
   Vanco PO q 6 hours
   Colace
   Senna
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-18**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 90 (70 - 90) bpm
   BP: 133/46(76) {104/34(56) - 133/51(77)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
    CVP: 16 (5 - 20)mmHg
   Total In:
                                                                  1,213 mL
                                                                  2,197 mL
   PO:
   TF:
   IVF:
                                                                  1,198 mL
                                                                  1,847 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    275 mL
                                                                    205 mL
   Urine:
                                                                    275 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    938 mL
                                                                  1,992 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/28/212/17/-2
   Ve: 10.1 L/min
   PaO2 / FiO2: 530
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   170 K/uL
   9.3 g/dL
   115 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.9 mEq/L
   43 mg/dL
   106 mEq/L
   132 mEq/L
   26.9 %
   12.1 K/uL
        [image002.jpg]
                            [**2129-12-17**]  04:38 PM
                            [**2129-12-17**]  10:09 PM
                            [**2129-12-17**]  10:11 PM
                            [**2129-12-18**]  04:09 AM
   WBC
   13.5
   12.1
   Hct
   23.2
   26.9
   Plt
   170
   170
   Cr
   1.3
   1.2
   TropT
   1.04
   1.00
   TCO2
   24
   20
   Glucose
   162
   115
   Other labs: CK / CKMB / Troponin-T:164/3/1.00, ALT / AST:13/31, Alk
   Phos / T Bili:57/0.6, Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3
   %, Eos:2.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:246 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Name13 (STitle) **] is an 87 year old female with type II DM, asthma, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea, intubated and
   on Levophed.
   .
   1.  Hypotension.  Patient with profound and persistent hypotension in
   setting of diarrhea and poor PO intake.  Hypotension likely secondary
   to severe dehdyration.  Stool cultures from today at [**Hospital1 5**] [**Location (un) 3**]
   already positive for C. diff.  Given ?8 L of IVF yesterday, 1 unit
   PRBCs, and Levophed is being weaned down.  Also with [**Last Name (LF) **], [**First Name3 (LF) **] may
   have a component of cardiogenic shock.  Start vanco/zosyn for GPCs in
   sputum and infiltrate on CXR suggestive of HAP.
   - IVF boluses for hypotension, low UOP, low CVP
   - monitor UOP
   - wean levophed if possible
   - maintain MAPS > 60
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff
   - hold antihypertensives
   - start vanco/zosyn for HAP pneumonia
   .
   2.  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so will treat
   with both IV flagyl and PO vanco.  Abdominal exam currently benign, but
   patient has evidence of pancolitis on CT abd/pelvis.
   - continue IV flagyl, PO vanco for severe C. diff
   - follow fever curve, wbc
   - f/u final read of abd/pelvis CT from [**Hospital1 5**]-[**Location (un) 3**]
   - consider surgery consult if patient develops abdominal symptoms
   - TID lytes and replete prn
   .
   3.  Leukocytosis.  Patient found to have leukocytosis with 40% bands on
   admission. Likely secondary to C. diff, but will evaluate for other
   etiologies with blood and urine cultures.  Now with infiltrate on CXR
   and GPCs in sputum.
   - contive flagyl/vanco
   - start vanco/zosyn for HAP
   - f/u blood, urine, sputum cultures
   - follow wbc, fever curve
   .
   4.  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Currently on minimal vent support with FIO2 of 40%, PEEP of 5.
   Now with GPCs in sputum and infiltrate on CXR>
   - wean FIO2 if possible
   - continue mechanical venitllation
   - fentanyl/versed for sedation
   - will need diuresis in future when hemodynamically stable for
   pulmonary edema
   - start vanco/zosyn for HAP
   .
   5.  [**Location (un) **].  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF.
   - echo to evaluate cardiac function in future when sepsis is resolved
   - continue home aspirin, statin
   - no BB due to hypotension
   - daily EKGs
   .
   6.  Type II diabetes.  On metformin at home.
   - hold oral hypoglycemics
   - ISS
   - follow finger sticks
   .
   7.  PUD.  Patient has history of PUD.  Found to have H. pylori.
   Recently started on clarithryomycin and amoxicillin.
   - hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   - [**Hospital1 **] Hcts
   .
   8.  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration.
   - continue IVF boluses for low UOP
   - urine lytes
   - follow UOP
   - renally dose all meds
   .
   9.  Hyponatremia.  Patient has hypovolemic hyponatrmia.  Hyponatremia
   improving with IVFs.
   - urine osms
   - IVF boluses for hydration
   .
   7.  Depression.
   - celexa
   FEN: tube feeds, MVI
   PPx: HSQ
   FULL CODE
   Communication: (Son) [**Name (NI) **] [**Name (NI) 2812**] ([**Telephone/Fax (1) 2815**]
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2129-12-17**] 06:29 PM
   18 Gauge - [**2129-12-17**] 06:30 PM
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2129-12-19 07:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2129-12-18**] 08:06 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-19**] 04:00 AM
   Piperacillin - [**2129-12-19**] 06:06 AM
   Vancomycin - [**2129-12-19**] 07:36 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 49.9 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-19**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-19**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-19**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 77 (65 - 83) bpm
   BP: 128/47(75) {91/39(56) - 135/56(85)} mmHg
   RR: 22 (18 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
   CVP: 9 (8 - 10)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
                                Total In:
                                                                  6,523 mL
                                                                  3,205 mL
   PO:
                                TF:
                                                                    241 mL
                                                                    231 mL
   IVF:
                                                                  5,258 mL
                                                                  2,684 mL
   Blood products:
                                                                    634 mL
   Total out:
                                                                    575 mL
                                                                    260 mL
   Urine:
                                                                    575 mL
                                                                    160 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                  5,948 mL
                                                                  2,945 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/32/111/15/-10
   Ve: 10.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffsuely
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal and Tactile stimuli, Movement:
   Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   166 K/uL
   136 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.8 mEq/L
   39 mg/dL
   110 mEq/L
   133 mEq/L
   29.2 %
   11.9 K/uL
        [image002.jpg]
                            [**2129-12-17**]  04:38 PM
                            [**2129-12-17**]  10:09 PM
                            [**2129-12-17**]  10:11 PM
                            [**2129-12-18**]  04:09 AM
                            [**2129-12-18**]  08:00 AM
                            [**2129-12-18**]  12:00 PM
                            [**2129-12-18**]  04:43 PM
                            [**2129-12-18**]  06:06 PM
                            [**2129-12-19**]  02:59 AM
                            [**2129-12-19**]  03:22 AM
   WBC
   13.5
   12.1
   10.7
   11.9
   Hct
   23.2
   26.9
   26.1
   29.2
   Plt
   170
   170
   166
   166
   Cr
   1.3
   1.2
   1.2
   1.3
   TropT
   1.04
   1.00
   0.95
   0.80
   TCO2
   24
   20
   19
   18
   16
   Glucose
   162
   115
   120
   123
   136
   Other labs: PT / PTT / INR:15.9/56.0/1.4, CK / CKMB /
   Troponin-T:346/6/0.80, ALT / AST:12/32, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   CXR: [**12-19**]: with increasing effusion infiltrate at the right base and
   left sided effusion.
   Assessment and Plan
   87 year old female with type II DM, asthma, dementia, h/o gastric
   ulcer, admitted with severe C. diff diarrhea, intubated and on Levophed
   and also with concern for VAP/HCAP
   >  Hypotension/ C. dif colitis: .  Patient with profound and persistent
   hypotension in setting of diarrhea [**2-26**] colitis, and VAP.  Stool
   cultures from today at [**Hospital1 5**] [**Location (un) 3**] already positive for C. dif with
   addiitonal component of NSTEMI (may have a component of cardiogenic
   shock).  Start vanco/zosyn for GPCs in sputum and infiltrate on CXR
   suggestive of HAP.
   - IVF boluses for hypotension, low UOP
   - monitor UOP
   - wean levophed if possible
   - maintain MAPS > 60
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff
   - hold antihypertensives
   - start vanco/zosyn for HAP pneumonia
   >  C. diff.  Patient found to have severe C. diff after presenting with
   diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so will treat
   with both IV flagyl and PO vanco.  Abdominal exam currently benign, but
   patient has evidence of pancolitis on CT abd/pelvis. If lactate
   increases will consider re-imaging and [**Doctor First Name 91**] consult.
   - continue IV flagyl, PO vanco for severe C. diff
   - follow fever curve, wbc
   - consider surgery consult if patient develops abdominal symptoms, cont
   to follow bladder pressures.
   - TID lytes and replete prn
   >  Leukocytosis.  Patient found to have leukocytosis with 40% bands on
   admission. Likely secondary to C. diff, but will evaluate for other
   etiologies with blood and urine cultures.  Now with infiltrate on CXR
   and GPCs in sputum will treat for VAP as well.
   - contive flagyl/vanco
   - start vanco/zosyn for HAP
   - f/u blood, urine, sputum cultures
   - follow wbc, fever curve
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with GPCs in sputum and infiltrate on CXR would cont Vanco
   and Pip-Tazo for HCAP Pna
   - Cont abx
   - wean FIO2 if possible
   - continue mechanical venitllation
   - Minimize sedation and change to PS
   - will need diuresis in future when hemodynamically stable for
   pulmonary edema
   - start vanco/zosyn for HAP
   >NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins
   - echo to evaluate cardiac function in future when sepsis is resolved
   - continue aspirin, statin
   - no BB due to hypotension
   - daily EKGs
   >Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF, likely
   prerenal versus ATN in setting of hypotension and dehydration and
   falling HCO3 with a UAG of 0 which suggests diarrhea as the source
   would favor HCO3 repletion for now
   - continue IVF with LR
   - renally dose all meds
   >  Hyponatremia.  Patient has hypovolemic hyponatrmia.  Hyponatremia
   improving with IVFs.
   - urine osms
   - IVF boluses for hydration
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-18**] 11:58 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-12-17**] 06:30 PM
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes; patient is critically ill

2129-12-19 07:59:00 Physician Resident Progress Note
Chief Complaint: c. diff
   24 Hour Events:
   Continued on IV flagyl, PO vanco
   Started on IV vanco and zoysn for HAP
   IVF liter boluses throughout day X3, continued to require 0.36mcg
   levophed pm [**12-18**], 1L NS at mignight, then at 4am
   Given 1uPRBC 9pm for hct 26, goal >27 given [**Month/Year (2) **] and sepsis, goal to
   wean off levophed
   Wrote for PRN nebs for wheeziness on exam 2100
   TSH wnl
   3am called by nursing for increase pressor requirements, low UOP - abd
   distended, not tense, lactate 0.5, KUB performed with no free air under
   diaphragm, bladder pressure 12, lactate at 530 am 0.5.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-19**] 04:00 AM
   Piperacillin - [**2129-12-19**] 06:06 AM
   Vancomycin - [**2129-12-19**] 07:36 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-19**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-19**] 07:39 AM
   Other medications:
   Folic acid
   Albumin 100 g
   Haldol PRN
   Vanco
   Meropenem
   Atrovent
   Albuterol
   Lactulose prn
   Rifaximin 400 TID
   Levothyroxine 25 mcg IV
   Thiamine 100 mg IV daily
   Pantoprazole
   Urosodiol 300 [**Hospital1 **]
   Insulin SS
   Zofran
   Sarna
   HSQ
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-19**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 77 (65 - 83) bpm
   BP: 128/47(75) {91/39(56) - 135/56(85)} mmHg
   RR: 22 (18 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
    CVP: 9 (8 - 10)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  6,523 mL
                                                                  3,249 mL
   PO:
   TF:
                                                                    241 mL
                                                                    239 mL
   IVF:
                                                                  5,258 mL
                                                                  2,690 mL
   Blood products:
                                                                    634 mL
   Total out:
                                                                    575 mL
                                                                    260 mL
   Urine:
                                                                    575 mL
                                                                    160 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  5,948 mL
                                                                  2,989 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/32/111/15/-10
   Ve: 10.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   166 K/uL
   10.1 g/dL
   136 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.8 mEq/L
   39 mg/dL
   110 mEq/L
   133 mEq/L
   29.2 %
   11.9 K/uL
        [image002.jpg]
                            [**2129-12-17**]  04:38 PM
                            [**2129-12-17**]  10:09 PM
                            [**2129-12-17**]  10:11 PM
                            [**2129-12-18**]  04:09 AM
                            [**2129-12-18**]  08:00 AM
                            [**2129-12-18**]  12:00 PM
                            [**2129-12-18**]  04:43 PM
                            [**2129-12-18**]  06:06 PM
                            [**2129-12-19**]  02:59 AM
                            [**2129-12-19**]  03:22 AM
   WBC
   13.5
   12.1
   10.7
   11.9
   Hct
   23.2
   26.9
   26.1
   29.2
   Plt
   170
   170
   166
   166
   Cr
   1.3
   1.2
   1.2
   1.3
   TropT
   1.04
   1.00
   0.95
   0.80
   TCO2
   24
   20
   19
   18
   16
   Glucose
   162
   115
   120
   123
   136
   Other labs: PT / PTT / INR:15.9/56.0/1.4, CK / CKMB /
   Troponin-T:346/6/0.80, ALT / AST:12/32, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Ms. [**Name13 (STitle) **] is an 87 year old female with type II DM, asthma, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea, intubated and
   on Levophed.
   .
   1.  Hypotension.  Patient with profound and persistent hypotension in
   setting of diarrhea and poor PO intake.  Hypotension likely secondary
   to severe dehdyration.  Stool cultures from today at [**Hospital1 5**] [**Location (un) 3**] was
   C. diff positive, though negative here.  Also with [**Last Name (LF) **], [**First Name3 (LF) **] may have
   a component of cardiogenic shock.  Start vanco/zosyn for GPCs in sputum
   and infiltrate on CXR suggestive of HAP.
   - IVF boluses for hypotension, low UOP, low CVP
   - monitor UOP
   - wean levophed if possible
   - maintain MAPS > 60
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff
   - hold antihypertensives
   - start vanco/zosyn for HAP pneumonia
   .
   2.  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so will treat
   with both IV flagyl and PO vanco.  Abdominal exam currently benign, but
   patient has evidence of pancolitis on CT abd/pelvis.
   - continue IV flagyl, PO vanco for severe C. diff
   - follow fever curve, wbc
   - f/u final read of abd/pelvis CT from [**Hospital1 5**]-[**Location (un) 3**]
   - consider surgery consult if patient develops abdominal symptoms
   - TID lytes and replete prn
   .
   3.  Leukocytosis.  Patient found to have leukocytosis with 40% bands on
   admission. Likely secondary to C. diff, but will evaluate for other
   etiologies with blood and urine cultures.  Now with infiltrate on CXR
   and GPCs in sputum.
   - contive flagyl/vanco
   - start vanco/zosyn for HAP
   - f/u blood, urine, sputum cultures
   - follow wbc, fever curve
   .
   4.  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Currently on minimal vent support with FIO2 of 40%, PEEP of 5.
   Now with GPCs in sputum and infiltrate on CXR>
   - wean FIO2 if possible
   - continue mechanical venitllation
   - fentanyl/versed for sedation
   - will need diuresis in future when hemodynamically stable for
   pulmonary edema
   - start vanco/zosyn for HAP
   .
   5.  [**Location (un) **].  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF.
   - echo to evaluate cardiac function in future when sepsis is resolved
   - continue home aspirin, statin
   - no BB due to hypotension
   - daily EKGs
   .
   6.  Type II diabetes.  On metformin at home.
   - hold oral hypoglycemics
   - ISS
   - follow finger sticks
   .
   7.  PUD.  Patient has history of PUD.  Found to have H. pylori.
   Recently started on clarithryomycin and amoxicillin.
   - hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   - [**Hospital1 **] Hcts
   .
   8.  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration.
   - continue IVF boluses for low UOP
   - urine lytes
   - follow UOP
   - renally dose all meds
   .
   9.  Hyponatremia.  Patient has hypovolemic hyponatrmia.  Hyponatremia
   improving with IVFs.
   - urine osms
   - IVF boluses for hydration
   .
   7.  Depression.
   - celexa
   FEN: tube feeds, MVI
   PPx: HSQ
   FULL CODE
   Communication: (Son) [**Name (NI) **] [**Name (NI) 2812**] ([**Telephone/Fax (1) 2815**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-12-17**] 06:30 PM
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2129-12-20 07:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-19**] 06:06 AM
   Vancomycin - [**2129-12-19**] 07:36 AM
   Metronidazole - [**2129-12-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-19**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-19**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 87 (70 - 91) bpm
   BP: 133/47(76) {83/37(53) - 133/52(78)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 60 kg
   CVP: 11 (5 - 12)mmHg
   Bladder pressure: 14 (10 - 14) mmHg
   Total In:
                                                                  8,132 mL
                                                                    711 mL
   PO:
   TF:
                                                                    720 mL
                                                                    225 mL
   IVF:
                                                                  6,702 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    194 mL
   Urine:
                                                                    586 mL
                                                                     94 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  7,346 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/36/161/16/-9
   Ve: 9 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.2 g/dL
   183 K/uL
   131 mg/dL
   1.4 mg/dL
   16 mEq/L
   3.6 mEq/L
   37 mg/dL
   109 mEq/L
   132 mEq/L
   26.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2129-12-18**]  08:00 AM
                            [**2129-12-18**]  12:00 PM
                            [**2129-12-18**]  04:43 PM
                            [**2129-12-18**]  06:06 PM
                            [**2129-12-19**]  02:59 AM
                            [**2129-12-19**]  03:22 AM
                            [**2129-12-19**]  04:16 PM
                            [**2129-12-19**]  04:29 PM
                            [**2129-12-20**]  02:55 AM
                            [**2129-12-20**]  03:00 AM
   WBC
   10.7
   11.9
   8.7
   Hct
   26.1
   29.2
   27.1
   26.5
   Plt
   166
   166
   183
   Cr
   1.2
   1.3
   1.4
   1.4
   TropT
   0.95
   0.80
   0.67
   TCO2
   19
   18
   16
   17
   17
   Glucose
   120
   123
   136
   127
   131
   Other labs: PT / PTT / INR:15.4/61.7/1.4, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:12/32, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   87 year old female with type II DM, asthma, dementia, h/o gastric
   ulcer, admitted with severe C. diff diarrhea, intubated and on Levophed
   and also with concern for VAP/HCAP.
    >  Hypotension/ C. dif colitis: .  Patient with profound and
   persistent hypotension in setting of diarrhea [**2-26**] colitis, and VAP.
   Stool cultures from today at [**Hospital1 5**] [**Location (un) 3**] already positive for C. dif
   with addiitonal component of NSTEMI (may have a component of
   cardiogenic shock).  Start vanco/zosyn for GPCs in sputum and
   infiltrate on CXR suggestive of HAP.
   - IVF boluses for hypotension, low UOP
   - monitor UOP
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff
   - hold antihypertensives
   - start vanco/zosyn for HAP pneumonia
   >  C. diff.  Patient found to have severe C. diff after presenting with
   diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so will treat
   with both IV flagyl and PO vanco.  Abdominal exam currently benign, but
   patient has evidence of pancolitis on CT abd/pelvis. If lactate
   increases will consider re-imaging and [**Doctor First Name 91**] consult.
   - continue IV flagyl, PO vanco for severe C. diff
   - follow fever curve, wbc
   - consider surgery consult if patient develops abdominal symptoms, cont
   to follow bladder pressures.
   - TID lytes and replete prn
   >  Leukocytosis.  Patient found to have leukocytosis with 40% bands on
   admission. Likely secondary to C. diff, but will evaluate for other
   etiologies with blood and urine cultures.  Now with infiltrate on CXR
   and GNRs in sputum will treat for VAP as well.  Also with aspergillus
   (rare in the sputum). For now we can stop IV vanco (no evidence of GPC
   in blood and although present oin stain did not grow out), would think
   aspergillus is likely to be contaminant as opposed to infectious.
   - contive flagyl/vanco for c. dif
   - cont /zosyn for HAP
   - f/u blood, urine, sputum cultures
   - follow wbc, fever curve
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with GNR in the sputum which we are treating, the GPC are
   probable contaminants as are the aspergillus
   - Cont abx, stop Vanco
   - wean FIO2 if possible
   - trial PS as she wakes up
   - Minimize sedation and change to PS when more awake.
   - will need diuresis in future when hemodynamically stable for
   pulmonary edema
   - start vanco/zosyn for HAP
   >NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins, repeat TTE with some
   worsening of TR and pulm htn, but no change in LV function.
   - continue aspirin, statin
   - no BB due to hypotension
   >Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF, likely
   prerenal versus ATN in setting of hypotension and dehydration and
   falling HCO3 with a UAG of 0 which suggests diarrhea as the source
   would favor HCO3 repletion for now., although she may not have good
   absorption. Would favor trying to diurese her gently today if she can
   tolerate
   - cont PO HCO3
   - renally dose all meds
    >  Hyponatremia.  Patient has hypovolemic hyponatrmia.  Hyponatremia
   improving with IVFs.
   - urine osms
   - IVF boluses for hydration
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-19**] 11:25 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes; patient is critically ill

2129-12-20 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sedation turned off, still apneic when on PSV.
   - TTE: LVEF >65%, mild-mod TR and mod pulm HTN (both mild in [**2121**]).
   - Urine lytes with some suggestion of RTA; PO bicarb given without much
   improvement thus far.
   - Lactate stable < 1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-19**] 06:06 AM
   Metronidazole - [**2129-12-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 06:00 AM
   Vancomycin - [**2129-12-20**] 07:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-20**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-20**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-20**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 81 (70 - 91) bpm
   BP: 106/42(63) {83/37(53) - 133/52(78)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 60 kg
    CVP: 10 (5 - 12)mmHg
   Bladder pressure: 14 (10 - 14) mmHg
   Total In:
                                                                  8,132 mL
                                                                    939 mL
   PO:
   TF:
                                                                    720 mL
                                                                    238 mL
   IVF:
                                                                  6,702 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    219 mL
   Urine:
                                                                    586 mL
                                                                    119 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  7,346 mL
                                                                    720 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/36/161/16/-9
   Ve: 9 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   9.2 g/dL
   131 mg/dL
   1.4 mg/dL
   16 mEq/L
   3.6 mEq/L
   37 mg/dL
   109 mEq/L
   132 mEq/L
   26.5 %
   8.7 K/uL
        [image002.jpg]
                            [**2129-12-18**]  08:00 AM
                            [**2129-12-18**]  12:00 PM
                            [**2129-12-18**]  04:43 PM
                            [**2129-12-18**]  06:06 PM
                            [**2129-12-19**]  02:59 AM
                            [**2129-12-19**]  03:22 AM
                            [**2129-12-19**]  04:16 PM
                            [**2129-12-19**]  04:29 PM
                            [**2129-12-20**]  02:55 AM
                            [**2129-12-20**]  03:00 AM
   WBC
   10.7
   11.9
   8.7
   Hct
   26.1
   29.2
   27.1
   26.5
   Plt
   166
   166
   183
   Cr
   1.2
   1.3
   1.4
   1.4
   TropT
   0.95
   0.80
   0.67
   TCO2
   19
   18
   16
   17
   17
   Glucose
   120
   123
   136
   127
   131
   Other labs: PT / PTT / INR:15.4/61.7/1.4, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:12/32, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Name13 (STitle) **] is an 87 year old female with type II DM, asthma, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea, intubated and
   on Levophed.
   .
   1.  Hypotension.  Patient with profound and persistent hypotension in
   setting of diarrhea and poor PO intake.  Hypotension likely secondary
   to severe dehdyration.  Stool cultures from today at [**Hospital1 5**] [**Location (un) 3**] was
   C. diff positive, though negative here.  Also with [**Last Name (LF) **], [**First Name3 (LF) **] may have
   a component of cardiogenic shock.  Start vanco/zosyn for GPCs in sputum
   and infiltrate on CXR suggestive of HAP.
   - IVF boluses for hypotension, low UOP, low CVP
   - monitor UOP
   - wean levophed if possible
   - maintain MAPS > 60
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff
   - hold antihypertensives
   - start vanco/zosyn for HAP pneumonia
   .
   2.  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so will treat
   with both IV flagyl and PO vanco.  Abdominal exam currently benign, but
   patient has evidence of pancolitis on CT abd/pelvis.
   - continue IV flagyl, PO vanco for severe C. diff
   - follow fever curve, wbc
   - f/u final read of abd/pelvis CT from [**Hospital1 5**]-[**Location (un) 3**]
   - consider surgery consult if patient develops worsening abdominal exam
   - [**Hospital1 **] lytes and replete prn
   .
   3.  Leukocytosis.  Patient found to have leukocytosis with 40% bands on
   admission. Likely secondary to C. diff, but will evaluate for other
   etiologies with blood and urine cultures.  Now with infiltrate on CXR
   and GPCs in sputum.
   - contive flagyl/vanco
   - start vanco/zosyn for HAP
   - f/u blood, urine, sputum cultures
   - follow wbc, fever curve
   .
   4.  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Currently on minimal vent support with FIO2 of 40%, PEEP of 5.
   Now with GPCs in sputum and infiltrate on CXR.
   - wean FIO2 if possible
   - continue mechanical venitllation
   - fentanyl/versed for sedation
   - wean sedation and give PS trial if possible (failed SBT in AM due to
   apnea)
   - will need diuresis in future when hemodynamically stable for
   pulmonary edema
   - start vanco/zosyn for HAP
   .
   5.  [**Hospital1 **].  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF.
   - echo to evaluate cardiac function in future
   - continue home aspirin, statin
   - no BB due to hypotension
   - daily EKGs
   .
   6.  Type II diabetes.  On metformin at home.
   - hold oral hypoglycemics
   - ISS
   - follow finger sticks
   .
   7.  PUD.  Patient has history of PUD.  Found to have H. pylori.
   Recently started on clarithryomycin and amoxicillin as outpatient.
   - hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   - [**Hospital1 **] Hcts
   .
   8.  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF.
   Urine lytes consistent with pre-renal ARF.  Has ongoing diarrhea due to
   c. diff and third spacing.
   - continue IVF boluses for low UOP
   - urine lytes
   - follow UOP
   - renally dose all meds
   .
   9.  Depression.
   - celexa
   FEN: tube feeds, MVI
   PPx: HSQ
   FULL CODE
   Communication: (Son) [**Name (NI) **] [**Name (NI) 2812**] ([**Telephone/Fax (1) 2815**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-19**] 11:25 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-22 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued on furosemide gtt; Cr trending up slowly 1.7 -> 1.8 -> 1.9
   - ET tube advanced, now tip 4 cm from carina
   - 1 unit of pRBCs; Hct increased from 26.7 to 28.6
   - received K 40 mEq yesterday then 20 mEq earlier this morning
   - was in PS earlier yesterday; switched to AC due to acidemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Vancomycin - [**2129-12-21**] 12:38 PM
   Metronidazole - [**2129-12-22**] 04:00 AM
   Piperacillin - [**2129-12-22**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-22**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 75 (69 - 100) bpm
   BP: 142/52(86) {103/39(62) - 147/56(91)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 5 (5 - 195)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  2,777 mL
                                                                    786 mL
   PO:
   TF:
                                                                    724 mL
                                                                    235 mL
   IVF:
                                                                  1,228 mL
                                                                    551 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,160 mL
                                                                  1,020 mL
   Urine:
                                                                  2,060 mL
                                                                  1,020 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    617 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 308 (308 - 308) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.35/33/324/20/-6
   Ve: 10.7 L/min
   PaO2 / FiO2: 810
   Physical Examination
   Gen: intubated, responsive to verbal command to open eyes but unable to
   squeeze fingers
   Lungs: coarse breath sounds bilaterally from anterior
   Heart: normal rate, reg rhythm, nl S1/S2, no m/r/g
   Abd: distended, moderately hard and tympanic, no grimacing on
   palpation, bowel sounds present
   Ext: no edema
   Labs / Radiology
   155 K/uL
   10.8 g/dL
   213 mg/dL
   1.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   41 mg/dL
   107 mEq/L
   133 mEq/L
   30.3 %
   6.5 K/uL
        [image002.jpg]
                            [**2129-12-20**]  02:55 AM
                            [**2129-12-20**]  03:00 AM
                            [**2129-12-20**]  09:19 AM
                            [**2129-12-20**]  05:21 PM
                            [**2129-12-21**]  03:37 AM
                            [**2129-12-21**]  03:50 AM
                            [**2129-12-21**]  09:34 AM
                            [**2129-12-21**]  01:00 PM
                            [**2129-12-21**]  04:58 PM
                            [**2129-12-22**]  05:22 AM
   WBC
   8.7
   8.8
   7.9
   7.3
   6.5
   Hct
   26.5
   27.7
   26.7
   28.6
   30.3
   Plt
   183
   179
   166
   160
   155
   Cr
   1.4
   1.6
   1.7
   1.8
   1.9
   TCO2
   17
   19
   19
   22
   19
   Glucose
   131
   206
   209
   179
   213
   Other labs: PT / PTT / INR:16.5/38.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.4 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 2914**] is an 87 year old female with type II DM, asthma,
   dementia, h/o gastric ulcer, admitted with severe C. diff diarrhea,
   intubated, now weaned off pressors.
   .
   #  Respiratory failure:  in setting of aggressive fluid hydration.  CXR
   still shows persistent pulmonary edema and ? pneumonia.  Was again
   acidotic and hypoventilating on PS 15/5 this morning.
   - switch back to AC for improved ventilation
   - continue diuresis as below
   - continue pip-tazo for presumed HAP
   # Volume overload: secondary to aggressive IVF. Furosemide gtt was
   started [**12-20**], currently at 16 mg/hr. Cr trending up slowly, 1.9 today.
   Urine output 80-150 ml/hr.
   - continue furosemide gtt
   - add chlorothiazide
   - check lytes, Cr tid; replete as needed
   - monitor I/O closely
   #  C. diff colitis: with hypotension on presentation. Before admission,
   patient had been on clarithromycin and amoxicillin for UTI and H.
   pylori gastritis. Evidence of pancolitis on CT abd/pelvis.
   - continue IV metronidazole, PO vancomycin
   - consider surgery consult if patient develops worsening abdominal exam
   #  Recent hypotension: BP now stable.  Initiatl hypotension likely
   secondary to dehydration and sepsis in setting of C. diff colitis and
   poor PO intake.  C. diff from [**Hospital1 5**] [**Location (un) 3**] was positive but negative
   here.
   - monitor UOP
   - maintain MAPS > 60
   - f/u cultures (blood, urine, sputum, stool).
   - continue vanco/flagyl for severe C. diff and pip-tazo for HAP
   - hold antihypertensives
   #  Metabolic acidosis.  Likely secondary to bicarb losses from RTA.
   - sodium bicarb PO
   - follow bicarb
   # NSTEMI: TWI and lasteral ST depressions in setting of hypotension;
   elevated troponins.  Last echo in [**2121**] with normal EF, most recent echo
   with preserved EF.
   - continue home aspirin, statin
   - no BB due to hypotension
   #  Type II diabetes:  On metformin at home.
   - continue to hold oral hypoglycemics
   - ISS; follow finger sticks
   .
   # PUD.  Patient has history of PUD.  Found to have H. pylori.  Recently
   started on clarithryomycin and amoxicillin as outpatient.
   - hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   - [**Hospital1 **] Hcts
   #  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF, likely
   secondary to ATN given urine lytes and ongoing furosemide gtt.
   - continue furosemide gtt for now but monitor renal labs closely
   - follow UOP
   - renally dose all meds
   .
   #  Depression:
   - continue citalopram
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-22**] 12:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Son [**Name (NI) **] [**Name (NI) 2812**] [**Telephone/Fax (1) 2912**]
   Code status: Full code
   Disposition:ICU

2129-12-22 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Off pressors
   > Increasing creatinine
   > Titrated lasix gtt with poor UOP
   > Failed PS trial in am [**2-26**] acidosis (low TV)
   > Discussions with son, who will come in to visit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Vancomycin - [**2129-12-21**] 12:38 PM
   Metronidazole - [**2129-12-22**] 04:00 AM
   Piperacillin - [**2129-12-22**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-22**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-22**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 88 (69 - 100) bpm
   BP: 169/69(110) {103/39(62) - 169/69(110)} mmHg
   RR: 27 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 12 (5 - 195)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  2,777 mL
                                                                    844 mL
   PO:
   TF:
                                                                    724 mL
                                                                    245 mL
   IVF:
                                                                  1,228 mL
                                                                    569 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,160 mL
                                                                  1,200 mL
   Urine:
                                                                  2,060 mL
                                                                  1,200 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    617 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 308 (308 - 308) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.35/33/324/20/-6
   Ve: 10.7 L/min
   PaO2 / FiO2: 810
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ET/OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Non-tender, Bowel sounds present, Distended, firm
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.8 g/dL
   155 K/uL
   213 mg/dL
   1.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   41 mg/dL
   107 mEq/L
   133 mEq/L
   30.3 %
   6.5 K/uL
        [image002.jpg]
                            [**2129-12-20**]  02:55 AM
                            [**2129-12-20**]  03:00 AM
                            [**2129-12-20**]  09:19 AM
                            [**2129-12-20**]  05:21 PM
                            [**2129-12-21**]  03:37 AM
                            [**2129-12-21**]  03:50 AM
                            [**2129-12-21**]  09:34 AM
                            [**2129-12-21**]  01:00 PM
                            [**2129-12-21**]  04:58 PM
                            [**2129-12-22**]  05:22 AM
   WBC
   8.7
   8.8
   7.9
   7.3
   6.5
   Hct
   26.5
   27.7
   26.7
   28.6
   30.3
   Plt
   183
   179
   166
   160
   155
   Cr
   1.4
   1.6
   1.7
   1.8
   1.9
   TCO2
   17
   19
   19
   22
   19
   Glucose
   131
   206
   209
   179
   213
   Other labs: PT / PTT / INR:16.5/38.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.4 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   CXR: Unchanged: Right perihilar opacity. Bilateral effusions with
   associated atelectasis vs consolidation.
   Assessment and Plan
   87 year old female with type II DM, asthma, legally blind, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea (40% bands,
   pancolitis) in setting of triple-ABX therapy for UTI/PUD. Intubated for
   respiratory failure, possibly due to volume overload, now with
   VAP/HAP.  Now off levophed [**12-21**].
     >  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so being
   treated with both IV flagyl and PO vanco.  Patient has evidence of
   pancolitis on CT abd/pelvis. Current abdominal exam with  distension,
   but non-tender, but If lactate increases will consider re-imaging and
   [**Doctor First Name 91**] consult.
   -          continue IV flagyl, PO vanco for severe C. diff
   -          consider surgery consult if patient develops abdominal
   symptoms, cont to follow bladder pressures.
   -          TID lytes and replete prn
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with Klebsiella in the sputum which we are treating for 7
   day course, the GPC are probable contaminants as is the aspergillus.
   Failed PS trial yesterday due to acidemia (7.26/46), likely [**2-26**] low
   lung volumes. Put back on AC with improvement (7.35/33).
   -          Pip-tazo for 7 day course (last day is [**12-25**])
   -          cont cautious diuresis with lasix GTT. Will add diuril
   today.
   -          PS trial in AM, failed past two days with low tidal volumes
   -          Likely bilateral pleural effusions. Will try to obtain decub
   xrays and if unable, would consider CT chest +/- tap
    >NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins, repeat TTE with some
   worsening of TR and pulm htn, but no change in LV function.
   -          continue aspirin, statin
   -          holding BB given recently off pressors
   >Acute renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration
   and falling HCO3 with a UAG of 0 which suggests diarrhea as the source
   would favor HCO3 repletion for now., although she may not have good
   absorption. We still need to get volume off and continue
   -          cont PO HCO3
   -          renally dose all meds
   -          Follow creatinine closely
    Other issues per ICU resident note.
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2129-12-22**] 12:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT:  SQ heparin, boots
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care, daily wake up, RSBI
   Comments:
   Communication:  Son to come in today. He was traumatized by intubation,
   so has been avoiding visiting.
   Code status: Full code
   Disposition : remains in ICU
   Total time spent: 36 minutes

2129-12-23 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - remained on AC throughout the day
   - diuresed very well with Diuril
   - added glargine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Vancomycin - [**2129-12-21**] 12:38 PM
   Metronidazole - [**2129-12-23**] 04:00 AM
   Piperacillin - [**2129-12-23**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-22**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-23**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 70 (64 - 99) bpm
   BP: 145/52(86) {112/37(64) - 169/69(110)} mmHg
   RR: 25 (20 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 7 (7 - 19)mmHg
   Total In:
                                                                  2,345 mL
                                                                    823 mL
   PO:
   TF:
                                                                    640 mL
                                                                    240 mL
   IVF:
                                                                  1,530 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                  1,000 mL
   Urine:
                                                                  3,350 mL
                                                                  1,000 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,105 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 230 (230 - 230) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.40/35/81.[**Numeric Identifier **]/21/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   10.9 g/dL
   194 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   42 mg/dL
   107 mEq/L
   136 mEq/L
   30.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2129-12-21**]  03:50 AM
                            [**2129-12-21**]  09:34 AM
                            [**2129-12-21**]  01:00 PM
                            [**2129-12-21**]  04:58 PM
                            [**2129-12-22**]  05:22 AM
                            [**2129-12-22**]  10:44 AM
                            [**2129-12-22**]  02:49 PM
                            [**2129-12-22**]  02:59 PM
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
   WBC
   7.3
   6.5
   6.6
   Hct
   28.6
   30.3
   30.5
   Plt
   160
   155
   200
   Cr
   1.8
   1.9
   2.0
   2.0
   TCO2
   19
   22
   19
   23
   22
   22
   Glucose
   179
   213
   207
   194
   Other labs: PT / PTT / INR:16.6/34.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 2914**] is an 87 year old female with type II DM, asthma,
   dementia, h/o gastric ulcer, admitted with severe C. diff diarrhea,
   intubated, now weaned off pressors.
   .
   #  Respiratory failure:  in setting of aggressive fluid hydration.  CXR
   still shows persistent pulmonary edema.  Has been on AC yesterday and
   overnight.
   - PS trial given good diuresis yesterday
   - continue pip-tazo for presumed HAP
   # Volume overload: secondary to aggressive IVF. Furosemide gtt was
   started [**12-20**], currently at 16 mg/hr. Cr plateaued at around 1.9-2.0.
   Chlorothiazide added yesterday with excellent urine output. Negative
   1.1 L yesterday.
   - continue furosemide gtt and chlorothiazide
   - check lytes, Cr tid; replete as needed
   - monitor I/O closely
   #  C. diff colitis: with hypotension on presentation. Before admission,
   patient had been on clarithromycin and amoxicillin for UTI and H.
   pylori gastritis. Evidence of pancolitis on CT abd/pelvis.
   - continue IV metronidazole, PO vancomycin
   - consider surgery consult if patient develops worsening abdominal exam
   #  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF, likely
   secondary to ATN given urine lytes and ongoing furosemide gtt.
   Metabolic acidosis likely secondary to bicarb losses from RTA.
   - continue furosemide gtt for now but monitor renal labs closely
   - follow UOP
   - renally dose all meds
   - continue sodium bicarb PO
   # NSTEMI: TWI and lasteral ST depressions in setting of hypotension;
   elevated troponins.  Last echo in [**2121**] with normal EF, most recent echo
   with preserved EF. Metoprolol added yesterday.
   - continue aspirin, statin, metoprolol
   #  Type II diabetes:  On metformin at home. Glargine added yesterday.
   - continue to hold oral hypoglycemics
   - ISS; follow finger sticks
   .
   # PUD.  Patient has history of PUD.  Found to have H. pylori.  Recently
   started on clarithryomycin and amoxicillin as outpatient.
   - hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   #  Depression:
   - continue citalopram
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-22**] 08:00 PM 30.[**Telephone/Fax (5) 2926**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: son [**Name (NI) **] [**Name (NI) 2812**] [**Telephone/Fax (1) 2912**]
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Addendum:
   PE:
   Gen: intubated, responsive to verbal command to open eyes, squeeze
   fingers, and wiggle toes
   Lungs: coarse breath sounds bilaterally from anterior
   Heart: normal rate, reg rhythm, nl S1/S2, no m/r/g
   Abd: distended, moderately tense and tympanic, diffusely tender, bowel
   sounds present
   Ext: no LE edema, but trace sacral edema
   ------ Protected Section Addendum Entered By:[**Name (NI) 2929**] [**Name (NI) 2255**], MD
   on:[**2129-12-23**] 11:03 ------

2129-12-23 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    87 yo DM II, legally blind.  Admitted to OSH with UTI/PUD. Returned
   with profuse diarrhea, C. diff colitis, respiratory failure, VAP on
   pressors.
   24 Hour Events:
   - Improved diuresis
   Has weaned off pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Vancomycin - [**2129-12-21**] 12:38 PM
   Metronidazole - [**2129-12-23**] 04:00 AM
   Piperacillin - [**2129-12-23**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-22**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-23**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 82 (64 - 99) bpm
   BP: 150/58(92) {112/37(64) - 150/58(93)} mmHg
   RR: 24 (20 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 12 (7 - 19)mmHg
   Total In:
                                                                  2,345 mL
                                                                    832 mL
   PO:
   TF:
                                                                    640 mL
                                                                    245 mL
   IVF:
                                                                  1,530 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                  1,260 mL
   Urine:
                                                                  3,350 mL
                                                                  1,260 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,105 mL
                                                                   -428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.40/35/81.[**Numeric Identifier **]/21/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.9 g/dL
   200 K/uL
   194 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   42 mg/dL
   107 mEq/L
   136 mEq/L
   30.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2129-12-21**]  03:50 AM
                            [**2129-12-21**]  09:34 AM
                            [**2129-12-21**]  01:00 PM
                            [**2129-12-21**]  04:58 PM
                            [**2129-12-22**]  05:22 AM
                            [**2129-12-22**]  10:44 AM
                            [**2129-12-22**]  02:49 PM
                            [**2129-12-22**]  02:59 PM
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
   WBC
   7.3
   6.5
   6.6
   Hct
   28.6
   30.3
   30.5
   Plt
   160
   155
   200
   Cr
   1.8
   1.9
   2.0
   2.0
   TCO2
   19
   22
   19
   23
   22
   22
   Glucose
   179
   213
   207
   194
   Other labs: PT / PTT / INR:16.6/34.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   87 year old female with type II DM, asthma, legally blind, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea (40% bands,
   pancolitis) in setting of triple-ABX therapy for UTI/PUD. Intubated for
   respiratory failure, possibly due to volume overload, now with
   VAP/HAP.  Now off levophed [**12-21**].
    >  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so being
   treated with both IV flagyl and PO vanco.  Patient has evidence of
   pancolitis on CT abd/pelvis. Current abdominal exam with  distension,
   but non-tender, but if lactate increases will consider re-imaging and
   [**Doctor First Name 91**] consult.
   -          continue IV flagyl, PO vanco for severe C. diff
   -          consider surgery consult if patient develops abdominal
   symptoms, cont to follow bladder pressures.
   -          TID lytes and replete prn
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with Klebsiella in the sputum which we are treating for 7
   day course, the GPC are probable contaminants as is the aspergillus.
   Failed PS trial 2x due to acidemia (7.26/46), likely [**2-26**] low lung
   volumes. Put back on AC with improvement.
   -          Pip-tazo for 7 day course (last day is [**12-25**])
   -          Good diuresis with lasix gtt and diuril.  CXR improved with
   decreased effusions.
   -          PS trial in AM, failed past two days with low tidal volumes,
   but now that diuresing, will try again
   > NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins, repeat TTE with some
   worsening of TR and pulm htn, but no change in LV function.
   -          continue aspirin, statin, BB (started [**12-22**])
   >Acute renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration.
   Falling HCO3 with a UAG of 0 which suggests diarrhea as the source.
   Would favor HCO3 repletion for now, although she may not have good
   absorption. We still need to get volume off.
   -          cont PO HCO3
   -          renally dose all meds
   -          Follow creatinine closely
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-22**] 08:00 PM 30.[**Telephone/Fax (5) 2926**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-12-24 08:00:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   Continued on Lasix Drip
   Patient able to spend 12 hours on PS then rested O/N on AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Metronidazole - [**2129-12-24**] 04:00 AM
   Piperacillin - [**2129-12-24**] 06:00 AM
   Vancomycin - [**2129-12-24**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-23**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-12-24**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 79 (63 - 86) bpm
   BP: 135/45(80) {122/40(69) - 155/58(97)} mmHg
   RR: 44 (16 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 5 (2 - 12)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  2,808 mL
                                                                    975 mL
   PO:
   TF:
                                                                    874 mL
                                                                    232 mL
   IVF:
                                                                  1,699 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                  2,180 mL
   Urine:
                                                                  4,300 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,492 mL
                                                                 -1,205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 305 (162 - 401) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.35/44/126/25/-1
   Ve: 7.8 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Well nourished, Intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric) Coarse
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely
   unchanged prior exam
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   197 K/uL
   10.5 g/dL
   243 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   41 mg/dL
   104 mEq/L
   136 mEq/L
   30.9 %
   6.2 K/uL
        [image002.jpg] BG 152-278
                            [**2129-12-22**]  05:22 AM
                            [**2129-12-22**]  10:44 AM
                            [**2129-12-22**]  02:49 PM
                            [**2129-12-22**]  02:59 PM
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
                            [**2129-12-23**]  11:16 AM
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
   WBC
   6.5
   6.6
   6.2
   Hct
   30.3
   30.5
   30.9
   Plt
   155
   200
   197
   Cr
   1.9
   2.0
   2.0
   2.0
   2.1
   TCO2
   23
   22
   22
   24
   25
   Glucose
   [**Telephone/Fax (3) 2954**]52
   243
   Other labs: PT / PTT / INR:16.6/34.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 2914**] is an 87 year old female with type II DM, asthma,
   dementia, h/o gastric ulcer, admitted with severe C. diff diarrhea,
   intubated, now weaned off pressors.
   #  Respiratory failure:  in setting of aggressive fluid hydration.  CXR
   still shows persistent pulmonary edema.  Has been on AC yesterday and
   overnight.
   - PS trial again today, patient failed SBT pulled tidal volumes 300 ml
   and declining
   - Continue pip-tazo for presumed HAP to last day [**12-25**]
   # Volume overload: secondary to aggressive IVF. Furosemide gtt was
   started [**12-20**]. Cr plateaued at around 1.9-2.1. Chlorothiazide added
   [**12-22**] with excellent urine output.
   - Continue furosemide gtt and chlorothiazide, goal UOP 125-150 ml/hr
   - Check lytes, Cr tid; replete as needed
   - Monitor I/O closely
   #  C. diff colitis: with hypotension on presentation. Before admission,
   patient had been on clarithromycin and amoxicillin for UTI and H.
   pylori gastritis. Evidence of pancolitis on CT abd/pelvis.
   - Continue IV metronidazole, PO vancomycin
   - Consider surgery consult if patient develops worsening abdominal exam
   #  Renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF, likely
   secondary to ATN given urine lytes and ongoing furosemide gtt.
   Metabolic acidosis likely secondary to bicarb losses from RTA.
   - Continue furosemide gtt for now but monitor renal labs closely
   - Follow UOP
   - Renally dose all meds
   - Continue sodium bicarb PO
   # NSTEMI: TWI and lasteral ST depressions in setting of hypotension;
   elevated troponins.  Last echo in [**2121**] with normal EF, most recent echo
   with preserved EF. Metoprolol added yesterday.
   - Continue aspirin, statin, metoprolol
   #  Type II diabetes:  On metformin at home. Glargine added [**12-22**].
   - Continue to hold oral hypoglycemics
   - Increase glargine and sliding scale given patient mostly in mid 200s;
   follow finger sticks
   # PUD.  Patient has history of PUD.  Found to have H. pylori.  Recently
   started on clarithryomycin and amoxicillin as outpatient.
   - Hold clarithromycin and amoxicillin
   - IV PPI [**Hospital1 **]
   #  Depression:
   - Continue citalopram
   ICU Care
   Nutrition:  Nutren tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT:  pneumoboots, started subq heparin at 5,000 units daily
   Stress ulcer:  PPI
   VAP:  precautions
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
    son [**Name (NI) **] [**Name (NI) 2812**] [**Telephone/Fax (1) 2912**]
   Code status: Full code
   Disposition:ICU

2129-12-24 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-21**] 11:49 AM
   Metronidazole - [**2129-12-24**] 04:00 AM
   Piperacillin - [**2129-12-24**] 06:00 AM
   Vancomycin - [**2129-12-24**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-24**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-24**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (63 - 87) bpm
   BP: 149/55(91) {122/40(69) - 155/58(97)} mmHg
   RR: 21 (16 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 3 (2 - 12)mmHg
   Total In:
                                                                  2,808 mL
                                                                  1,117 mL
   PO:
   TF:
                                                                    874 mL
                                                                    232 mL
   IVF:
                                                                  1,699 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                  2,785 mL
   Urine:
                                                                  4,300 mL
                                                                  1,985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,492 mL
                                                                 -1,668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 305 (162 - 401) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.35/44/126/25/-1
   Ve: 7.8 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.5 g/dL
   197 K/uL
   243 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.1 mEq/L
   41 mg/dL
   104 mEq/L
   136 mEq/L
   30.9 %
   6.2 K/uL
        [image002.jpg]
                            [**2129-12-22**]  05:22 AM
                            [**2129-12-22**]  10:44 AM
                            [**2129-12-22**]  02:49 PM
                            [**2129-12-22**]  02:59 PM
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
                            [**2129-12-23**]  11:16 AM
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
   WBC
   6.5
   6.6
   6.2
   Hct
   30.3
   30.5
   30.9
   Plt
   155
   200
   197
   Cr
   1.9
   2.0
   2.0
   2.0
   2.1
   TCO2
   23
   22
   22
   24
   25
   Glucose
   [**Telephone/Fax (3) 2954**]52
   243
   Other labs: PT / PTT / INR:16.6/34.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   87 year old female with type II DM, asthma, legally blind, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea (40% bands,
   pancolitis) in setting of triple-ABX therapy for UTI/PUD. Intubated for
   respiratory failure, possibly due to volume overload, now with
   VAP/HAP.  Now off levophed [**12-21**].
    >  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so being
   treated with both IV flagyl and PO vanco.  Patient has evidence of
   pancolitis on CT abd/pelvis. Current abdominal exam with  distension,
   but non-tender, but if lactate increases will consider re-imaging and
   [**Doctor First Name 91**] consult.
   -          continue IV flagyl, PO vanco for severe C. diff
   -          consider surgery consult if patient develops abdominal
   symptoms, cont to follow bladder pressures.
   -          TID lytes and replete prn
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with Klebsiella in the sputum which we are treating for 7
   day course, the GPC are probable contaminants as is the aspergillus.
   Failed PS trial 2x due to acidemia (7.26/46), likely [**2-26**] low lung
   volumes. Put back on AC with improvement.
   -          Pip-tazo for 7 day course (last day is [**12-25**])
   -          Good diuresis with lasix gtt and diuril
 will titrate
   down.  CXR improved with decreased effusions.
   -          Tolerating PS during the day at lower values ([**10-30**]), but did
   not tolerate SBT (TV 150-220)
   -          [**Month (only) 8**] be close to extubation in next few days
   > NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins, repeat TTE with some
   worsening of TR and pulm htn, but no change in LV function.
   -          continue aspirin, statin, BB (started [**12-22**])
   >Acute renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration.
   Falling HCO3 with a UAG of 0 which suggests diarrhea as the source.
   Would favor HCO3 repletion for now, although she may not have good
   absorption. We still need to get volume off.
   -          cont PO HCO3
   -          renally dose all meds
   -          Follow creatinine closely
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Arterial Line - [**2129-12-17**] 09:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU attending
   Patient
s record reviewed and patient examined with Dr. [**Last Name (STitle) 2956**]. Details
   outlined in her note above.
   Patient continues on ventilator with decreased mechanical support. Has
   been on PSV 10/5 for much of today with FIO2 of only 40%. On rounds, I
   reduced the PSV to [**5-30**]. She appeared comfortable with slight increase
   in respiratory rate from 20 to 22 and mild decline in tidal volume.
   Blood pressure has been stable today. CVP is [**3-30**] with ongoing diuresis.
   On exam, patient is intubated and on mechanical ventilation. She does
   not respond to verbal stimuli. PEER. No scleral icterus. Chest notable
   for bilateral rhonchi anterior and lateral fields. Heart sounds soft.
   No gallop or murmur. Abdomen with active bowel sounds. Soft; non
   tender. Extremities warm and well perfused.
   Labs notable for: stable anemia. Creat up over the past few days.
   Potassiuim low and being repleted.
   IMPRESSION:
   C. Diff
   Pneumonia
   Acute Respiratory Failure
   Acute Renal Failure
   Anemia
   Diarrhea improving. Patient has been getting bicarbonate replacement
   and serum bicarbonate now normal. Completing course of antibiotics for
   C diff and for pneumonia.
   Oxygenation improved. As negative fluid balance has been achieved,
   respiratory mechanics seem to be improving. Patient tolerating lower
   levels of PSV. Will try to keep negative fluid balance tonight and
   recheck RSBI in the morning. Patient may need higher PaCO2 to come off
   the ventilator.
   Hct stable. Not at transfusion threshold.
   Critical care 30 mins
   [**First Name4 (NamePattern1) 214**] [**Last Name (NamePattern1) **], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2129-12-24**] 16:22 ------

2129-12-25 08:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Arterial line d/c'ed
   - Continued diuresis: net 2.5L negative
   - Tolerated PS 5/5 until MN, then rested on vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-25**] 04:00 AM
   Piperacillin - [**2129-12-25**] 06:00 AM
   Vancomycin - [**2129-12-25**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-25**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-25**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (70 - 99) bpm
   BP: 132/54(72) {102/39(56) - 140/54(73)} mmHg
   RR: 24 (15 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 13 (2 - 15)mmHg
   Total In:
                                                                  2,386 mL
                                                                    749 mL
   PO:
   TF:
                                                                    720 mL
                                                                    180 mL
   IVF:
                                                                  1,395 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  4,975 mL
                                                                  1,535 mL
   Urine:
                                                                  4,175 mL
                                                                  1,535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,589 mL
                                                                   -786 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 223 (223 - 386) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: 7.35/49/153/29/0
   Ve: 4.9 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.4 g/dL
   246 K/uL
   184 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.2 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   30.4 %
   6.9 K/uL
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
                            [**2129-12-23**]  11:16 AM
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
                            [**2129-12-24**]  01:20 PM
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
   WBC
   6.6
   6.2
   6.9
   Hct
   30.5
   30.9
   30.4
   Plt
   200
   197
   246
   Cr
   2.0
   2.0
   2.1
   2.0
   2.0
   2.0
   TCO2
   22
   24
   25
   28
   Glucose
   194
   152
   243
   [**Telephone/Fax (3) 2964**]
   Other labs: PT / PTT / INR:17.3/33.1/1.6, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   87 year old female with type II DM, asthma, legally blind, dementia,
   h/o gastric ulcer, admitted with severe C. diff diarrhea (40% bands,
   pancolitis) in setting of triple-ABX therapy for UTI/PUD. Intubated for
   respiratory failure, possibly due to volume overload, now with
   VAP/HAP.  Now off levophed [**12-21**].
    >  C. diff.  Patient found to have severe C. diff after presenting
   with diarrhea and hypotension.  Patient was recently started on
   clarithromycin and amoxicillin for UTI and H. pylori gastritis and
   resides in a nursing home.  Patient has severe C. diff, so being
   treated with both IV flagyl and PO vanco.  Patient has evidence of
   pancolitis on CT abd/pelvis. Current abdominal exam with  distension,
   but non-tender, but if lactate increases will consider re-imaging and
   [**Doctor First Name 91**] consult.
   -          continue IV flagyl, PO vanco for severe C. diff
   -          TID lytes and replete prn
   >  Respiratory failure.  Patient became tachypneic and hypoxic in
   setting of aggressive fluid hydration.  CXR consistent with pulmonary
   edema.  Now with Klebsiella in the sputum which we are treating for 7
   day course, the GPC are probable contaminants as is the aspergillus.
   Failed PS trial 2x due to acidemia (7.26/46), likely [**2-26**] low lung
   volumes. Put back on AC with improvement.
   -          Pip-tazo for 7 day course completed today
   -          Good diuresis with lasix gtt and diuril
 will titrate down
   and d/c diuril.  CXR improved with decreased effusions.
   -          Tolerated 0/5 x 1 hour with TV 250-300
 will extubate
   > NSTEMI.  Patient noted to have TWI and lasteral ST depressions in
   setting of hypotension.  Patient with elevated troponins.  Last Echo in
   [**2121**] with normal EF now with improving troponins, repeat TTE with some
   worsening of TR and pulm htn, but no change in LV function.
   -          continue aspirin, statin, BB (started [**12-22**])
   >Acute renal failure.  Patient had Cr of 0.8 in [**6-2**].  Now with ARF,
   likely prerenal versus ATN in setting of hypotension and dehydration.
   Falling HCO3 with a UAG of 0 which suggests diarrhea as the source.
   Would favor HCO3 repletion for now, although she may not have good
   absorption.  Now stable with diuresis at 2.0.
   -          cont PO HCO3
   -          renally dose all meds
   -          Follow creatinine closely
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team for the key portions
   of the discussion of the plan of care and I agree with the findings as
   described above in regards to history, exam, lab data and formulation
   of the clinical plan.  I would add the following
   87 yo female admit with C. Diff Colitis and requiring volume
   resuscitation and then intubation and hospital course complicated by
   VAP for which she has completed a clinical course.
   Over past 24 hours patient has demonstrated good stability in regards
   to hemodynamic status and had trial of extubation this morning but
   subsequently evolved hypercarbic respiratory failure.
   For management, will
   1)Respiratory Failure-Will continue to work towards diuresis as primary
   variable for modification contributing to recurrent respiratory
   failure.
   -Continue with PSV
   -Will check NIF given primary hypercarbic resp failure
   -Will need to consider possible central suppression driving hypercarbia
   -Phosphate wnl
   -Will continue with diuresis as modifiable variable in addition to
   evaluation of muscle strength for sources of persistent ventilatory
   failure with my concern that weakness may be underestimated in terms of
   severity.
   Critical Care Time: 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2129-12-25**] 16:14 ------

2129-12-25 12:13:00 Physician Resident Progress Note
Chief Complaint: C Difficile colitis; hypoxemic respiratory failure
   from volume overload
   24 Hour Events:
   - Arterial line discontinued
   - Diuresed on Lasix drip + Diuril
   - Kept on pressure support overnight
   - Attempted extubation this morning, but failed due to hypercapnea;
   reintubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-25**] 06:00 AM
   Metronidazole - [**2129-12-25**] 11:46 AM
   Vancomycin - [**2129-12-25**] 11:47 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-25**] 08:11 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2129-12-25**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 67 (67 - 99) bpm
   BP: 127/56(73) {102/39(56) - 140/56(75)} mmHg
   RR: 16 (15 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 10 (4 - 15)mmHg
   Total In:
                                                                  2,386 mL
                                                                  1,100 mL
   PO:
   TF:
                                                                    720 mL
                                                                    180 mL
   IVF:
                                                                  1,395 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  4,975 mL
                                                                  2,095 mL
   Urine:
                                                                  4,175 mL
                                                                  2,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,589 mL
                                                                   -995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 223 (223 - 386) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.35/49/153/29/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General: opens eyes and follows simple commands; no distress
   Chest:  diminished breath sounds; mild ronchi
   CV:  regular, no murmurs
   Abdomen:  mildly distended
   Extr:  1+ edema
   Neuro:  opens eyes to voice and follows simple commands
   Labs / Radiology
   246 K/uL
   10.4 g/dL
   184 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.2 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   30.4 %
   6.9 K/uL
        [image002.jpg]
                            [**2129-12-23**]  04:08 AM
                            [**2129-12-23**]  04:17 AM
                            [**2129-12-23**]  11:16 AM
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
                            [**2129-12-24**]  01:20 PM
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
   WBC
   6.6
   6.2
   6.9
   Hct
   30.5
   30.9
   30.4
   Plt
   200
   197
   246
   Cr
   2.0
   2.0
   2.1
   2.0
   2.0
   2.0
   TCO2
   22
   24
   25
   28
   Glucose
   194
   152
   243
   [**Telephone/Fax (3) 2964**]
   Other labs: PT / PTT / INR:17.3/33.1/1.6, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   CXR: pending
   Assessment and Plan
   Ms. [**Known lastname 2914**] is an 87 year old female with hypovolemic shock due to
   severe C Difficile colitis, now with hypoxemic respiratory failure
   following aggressive IVF resuscitation.
   1.       Hypoxemic respiratory failure:  in setting of aggressive fluid
   hydration.  Complicated by VAP; failed extubation today due to
   hypercapnea
   - final day (day 8) of pip/tazo today
   - continue to diurese with Lasix drip + Diuril
   2.       C Difficile colitis: initially in hypovolemic shock
   -          cont metronidazole/vancomycin; day 1 of 14 day course will
   be tomorrow (following completion of pip/tazo)
   3.       Acute renal failure; possibly ATN from initial shock;
   remaining stable in spite of aggressive diuresis
   -          cont to monitor; check lytes 2-3 times per day given
   diuresis
   -          cont NaHCO3 for ? RTA
   4.       NSTEMI; likely demand ischemia in setting of shock
   -          cont aspirin, metoprolol, statin
   5.       DM2; titrate insulin; holding oral meds
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  titrate glargine as needed
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: ppi
   VAP:  VAP bundle, chlorhexidine
   Communication:  with son
   [**Name (NI) 156**] status: Full code
   Disposition:  ICU

2129-12-26 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - failed extubation in AM due to hypoventillation; reintubated; Dr
   [**Last Name (STitle) 2972**] discussed status with son, including discussing poor prognosis
   - continued to diurese well on Lasix drip plus Diuril; creatinine
   stable at 2.0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-25**] 06:05 PM
   Metronidazole - [**2129-12-26**] 04:00 AM
   Vancomycin - [**2129-12-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 79 (67 - 88) bpm
   BP: 126/53(71) {107/39(57) - 141/56(75)} mmHg
   RR: 17 (13 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  2,264 mL
                                                                    746 mL
   PO:
   TF:
                                                                    849 mL
                                                                    226 mL
   IVF:
                                                                  1,210 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  4,840 mL
                                                                  1,365 mL
   Urine:
                                                                  4,040 mL
                                                                  1,365 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -2,576 mL
                                                                   -619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 257 (257 - 257) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   GENERAL:  Intubated, sedated-appearing; responsive to voice but not
   clearly following commands on my exam
   COR: RRR, no murmurs/rubs/gallops, quiet under vent sounds
   LUNGS: Moving air well bilaterally on anterior exam; no paradoxical
   breathing
   ABD: Some distension but not evidently tender; bowel sounds +
   Labs / Radiology
   241 K/uL
   9.9 g/dL
   200 mg/dL
   2.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   43 mg/dL
   102 mEq/L
   139 mEq/L
   29.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
                            [**2129-12-24**]  01:20 PM
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
   WBC
   6.2
   6.9
   7.5
   Hct
   30.9
   30.4
   29.5
   Plt
   197
   246
   241
   Cr
   2.0
   2.1
   2.0
   2.0
   2.0
   2.0
   2.0
   2.0
   TCO2
   25
   28
   Glucose
   152
   243
   252
   [**Telephone/Fax (3) 2973**]
   234
   200
   Other labs: PT / PTT / INR:17.0/32.9/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, SEPTIC
   Ms. [**Known lastname 2914**] is an 87 year old female with hypovolemic shock due to
   severe C Difficile colitis, s/p hypoxemic respiratory failure following
   aggressive IVF resuscitation
   1.       Hypoxemic respiratory failure:  in setting of aggressive fluid
   hydration.  Complicated by VAP; failed extubation today due to
   hypercapnea
   - finished pip-tazo
   - continue to diurese with Lasix; holding Diuril given v vigorous
   output; goal negative 1-2 L today
   2.       C Difficile colitis: initially in hypovolemic shock
   -          cont metronidazole/vancomycin; day 1 of 14 day course starts
   today [**12-26**]
   3.       Acute renal failure; possibly ATN from initial shock;
   remaining stable in spite of aggressive diuresis
   -          cont to monitor; checking lytes regularly 2-3 times per day
   given diuresis
   -          cont NaHCO3 for ? RTA; can probably hold this starting
   tomorrow if is stable on lasix alone
   4.       Troponin elevated earlier; NSTEMI; likely demand ischemia in
   setting of shock
   -          cont aspirin, metoprolol, statin
   5.       DM2; titrate insulin; holding oral meds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-26**] 05:22 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Son v involved in care
   Code status: Full code
   Disposition:

2129-12-26 10:57:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Reintubated secondary to hypoventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-25**] 06:05 PM
   Metronidazole - [**2129-12-26**] 04:00 AM
   Vancomycin - [**2129-12-26**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-26**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: decreased resp rate
   Flowsheet Data as of  [**2129-12-26**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 73 (67 - 86) bpm
   BP: 121/47(66) {107/39(57) - 141/64(83)} mmHg
   RR: 42 (13 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 6 (6 - 12)mmHg
   Total In:
                                                                  2,264 mL
                                                                    947 mL
   PO:
   TF:
                                                                    849 mL
                                                                    319 mL
   IVF:
                                                                  1,210 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  4,840 mL
                                                                  1,935 mL
   Urine:
                                                                  4,040 mL
                                                                  1,935 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -2,576 mL
                                                                   -988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 257 (257 - 257) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   241 K/uL
   200 mg/dL
   2.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   43 mg/dL
   102 mEq/L
   139 mEq/L
   29.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2129-12-23**]  02:18 PM
                            [**2129-12-24**]  03:00 AM
                            [**2129-12-24**]  05:35 AM
                            [**2129-12-24**]  01:20 PM
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
   WBC
   6.2
   6.9
   7.5
   Hct
   30.9
   30.4
   29.5
   Plt
   197
   246
   241
   Cr
   2.0
   2.1
   2.0
   2.0
   2.0
   2.0
   2.0
   2.0
   TCO2
   25
   28
   Glucose
   152
   243
   252
   [**Telephone/Fax (3) 2973**]
   234
   200
   Other labs: PT / PTT / INR:17.0/32.9/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   To complete 14 day course of vanc/flagyl
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Resolving , aim 1-2 L negative today.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Likely multifactorial with some component of decreased compliance and
   muscle weakness.
   finished 8 day course of Zosyn for VAP
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Appears at baseline
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, SEPTIC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-26**] 05:22 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-12-27 07:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Diuresed -2L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-26**] 06:07 PM
   Metronidazole - [**2129-12-27**] 04:16 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-26**] 08:28 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-26**] 10:02 PM
   Other medications:
   ASA
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-27**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 74 (70 - 80) bpm
   BP: 128/48(66) {109/37(57) - 140/64(83)} mmHg
   RR: 22 (13 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  2,030 mL
                                                                    494 mL
   PO:
   TF:
                                                                    720 mL
                                                                    237 mL
   IVF:
                                                                  1,050 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  4,265 mL
                                                                    995 mL
   Urine:
                                                                  4,265 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,235 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 283 (283 - 455) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 6.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   291 K/uL
   188 mg/dL
   1.7 mg/dL
   34 mEq/L
   3.4 mEq/L
   42 mg/dL
   102 mEq/L
   141 mEq/L
   28.7 %
   8.5 K/uL
        [image002.jpg]
                            [**2129-12-24**]  05:35 AM
                            [**2129-12-24**]  01:20 PM
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
   WBC
   6.9
   7.5
   8.5
   Hct
   30.4
   29.5
   28.7
   Plt
   [**Telephone/Fax (3) 2986**]
   Cr
   2.0
   2.0
   2.0
   2.0
   2.0
   2.0
   1.7
   1.7
   TCO2
   25
   28
   Glucose
   [**Telephone/Fax (3) 2987**]29
   [**Telephone/Fax (2) 2988**]88
   Other labs: PT / PTT / INR:16.7/42.6/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:88.9 %, Lymph:5.2 %, Mono:3.3 %, Eos:2.3 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   87 year old female with hypovolemic shock due to severe C Difficile
   colitis, s/p hypoxemic respiratory failure following aggressive IVF
   resuscitation
   #Hypoxemic respiratory failure:  in setting of aggressive fluid
   hydration.  Complicated by VAP; failed extubation today due to
   hypercapnea
   - finished pip-tazo
   - continue to diurese with Lasix; holding Diuril given vigorous output;
   goal negative 1L today.
   - RISBI good, giving high risk of extubation failure will try extended
   SBT today prior to considering trach.
   Check ABG given bicarb 34. Stop bicarb.
   # C Difficile colitis: initially in hypovolemic shock, off VAP abx.
   Plan to continue flagyl + PO vanc for two weeks. (Day [**3-10**])
   # Acute renal failure; possibly ATN from initial shock; remaining
   stable in spite of aggressive diuresis
   - cont to monitor; checking lytes regularly 2-3 times per day given
   diuresis
   -  DC bicarb
   # Troponin elevated earlier; NSTEMI; likely demand ischemia in setting
   of shock
   - cont aspirin, metoprolol, statin
   # DM2; titrate insulin; holding oral meds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-26**] 09:11 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-12-28 09:57:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Failed SBT.
   diuresed -1L.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-25**] 06:05 PM
   Metronidazole - [**2129-12-28**] 03:55 AM
   Vancomycin - [**2129-12-28**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-28**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-28**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 92 (68 - 97) bpm
   BP: 139/52(76) {114/38(58) - 139/60(77)} mmHg
   RR: 21 (11 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 6 (0 - 10)mmHg
   Total In:
                                                                  1,696 mL
                                                                    657 mL
   PO:
   TF:
                                                                    722 mL
                                                                    293 mL
   IVF:
                                                                    724 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                  1,545 mL
   Urine:
                                                                  2,555 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                   -888 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 232 (232 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///38/
   Ve: 4.3 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   306 K/uL
   160 mg/dL
   1.2 mg/dL
   38 mEq/L
   3.4 mEq/L
   39 mg/dL
   105 mEq/L
   147 mEq/L
   29.8 %
   7.6 K/uL
        [image002.jpg]
                            [**2129-12-24**]  01:28 PM
                            [**2129-12-24**]  10:26 PM
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
   WBC
   6.9
   7.5
   8.5
   7.6
   Hct
   30.4
   29.5
   28.7
   29.8
   Plt
   [**Telephone/Fax (3) 3001**]06
   Cr
   2.0
   2.0
   2.0
   2.0
   2.0
   1.7
   1.7
   1.5
   1.2
   TCO2
   28
   Glucose
   [**Telephone/Fax (2) 3002**]
   188
   200
   160
   Other labs: PT / PTT / INR:16.0/60.7/1.4, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   vanc +  flagyl
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Improving
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Likely multifactorial - weakness + mild volume overload.
   RSBI okay but very marginal MV. Would proceed to trach and longer term
   wean. . Aim TBB -1L today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-28**] 06:03 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Anticipate family meeting today.
   Code status: Full code
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 3012**]. I would emphasize and add the following points: 87F c. diff c/b
   volume overload, respiratory failure and resolving ARF. TBB negative
   yesterday, now +5L/LOS.
   Exam notable for Tm 99.8 BP 115/50 HR 92 RR 18 with sat 99 on PSV 10/5,
   RSBI 85. Frail woman, NAD on vent. Diminished BS B bases. RRR s1s2, abd
   is softer today. 2+ edema. Labs notable for WBC 7.6K, HCT 30, K+ 3.4,
   Cr 1.2, HCO3 38.
   Agree with plan to continue diuresis and discuss with son re trach and
   [**Name (NI) 3014**] placement as she has multifactorial respiratory failure with
   elements of volume overload, weakness, extrinsic restriction, and
   possible aspiration pneumonia. Will contact IP after family meeting.
   Will continue PO vanco and IV flagyl for c. diff. Needs improved
   glycemic control with increased glargine and RISS; will add gtt if not
   consistently under 150. Will d/c CVL and place PIV or PICC. Remainder
   of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   SECOND ADDENDUM
   Case discussed with patient
s son at in detail. He understands that she
   has ongoing respiratory failure and is considering T+G versus a more
   comfort-centered approach to care. He will discuss the overall goals of
   care with his brother today and we will reassess her readiness for
   extubation tomorrow.
   Patient is critically ill
   Total time: 45 min

2129-12-29 08:49:00 Physician Resident Progress Note
Chief Complaint: C diff colitis, sepsis
   24 Hour Events:
   - Discussed trach/PEG placement with son - he will discuss with brother
   and reach a decision today
   - Changed heparin SC from TID to [**Hospital1 **] for high PTT
   - Diuresed -1.1L
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-29**] 04:19 AM
   Vancomycin - [**2129-12-29**] 05:38 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-29**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-29**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 90 (70 - 92) bpm
   BP: 123/47(66) {103/37(54) - 139/55(76)} mmHg
   RR: 17 (11 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
    CVP: 5 (0 - 9)mmHg
   Total In:
                                                                  2,109 mL
                                                                    710 mL
   PO:
   TF:
                                                                    720 mL
                                                                    255 mL
   IVF:
                                                                    539 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,220 mL
   Urine:
                                                                  2,045 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -436 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (278 - 429) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 7.1 L/min
   Physical Examination
   GEN:  intubated, sedated; no acute distress; does not follow commands
   HEENT: ETT+OG in place; PERRL
   SKIN: Warm; edematous diffusely
   COR: nl S1 S2, no m/r/g on quiet exam under vent sounds
   PULM: Clear on anterior exam
   ABD: Soft, no pt reaction to palpation
   EXT: Warm, well-perfused, 2+ edema
   Labs / Radiology
   344 K/uL
   10.1 g/dL
   173 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   32 mg/dL
   108 mEq/L
   149 mEq/L
   29.4 %
   7.8 K/uL
        [image002.jpg]
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
   WBC
   6.9
   7.5
   8.5
   7.6
   7.8
   Hct
   30.4
   29.5
   28.7
   29.8
   29.4
   Plt
   [**Telephone/Fax (3) 3001**]06
   344
   Cr
   2.0
   2.0
   2.0
   2.0
   1.7
   1.7
   1.5
   1.2
   1.2
   1.1
   Glucose
   184
   129
   234
   200
   227
   188
   200
   160
   213
   173
   Other labs: PT / PTT / INR:16.4/93.0/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continuing to treat with flagyl/po vanco for her 14 day course. WBC
   remains stable.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Creatinine has improved considerably over the last several days and is
   now within normal range. Follow for change.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Respiratory status is improving. On pressure support and able to
   continue to decrease support for her. Will continue to do so. See below
   re goals of care.
   - plan to aim towards extubation in next 1-2 days
 HYPERNATREMIA
   She is having increasing BUN, increasing sodium, suggesting that she is
   becoming somewhat hypovolemic intravascularly. This is fine for the
   moment given that the goal is to extubate her in an enduring way;
   making sure she is absolutely as dry as possible in her lungs is worth
   some mild electrolyte abnormalities for a short time. However, should
   increase free water boluses once extubated.
   GOALS OF CARE
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 749**], MICU attending, discussed goals of care with son. [**Name (NI) **] his
   notes re this. Son, [**Name (NI) 3036**], will want to be present for extubation. I
   will call Mr [**Known lastname 2812**] to explain plan to extubate tomorrow if all continues
   to go well.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-28**] 10:40 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: RSBI 39 today
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held
   Comments: team met with son yesterday
   [**Name2 (NI) 156**] status: DNR/DNI once extubated
   Disposition:ICU

2129-12-29 11:05:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Family meeting yesterday re: ?peg + trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-29**] 04:19 AM
   Vancomycin - [**2129-12-29**] 05:38 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-29**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-29**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 73 (72 - 90) bpm
   BP: 129/49(69) {103/37(54) - 136/55(75)} mmHg
   RR: 13 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
   CVP: 5 (0 - 9)mmHg
   Total In:
                                                                  2,109 mL
                                                                    814 mL
   PO:
   TF:
                                                                    720 mL
                                                                    327 mL
   IVF:
                                                                    539 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,390 mL
   Urine:
                                                                  2,045 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -436 mL
                                                                   -576 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (278 - 429) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.1 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   344 K/uL
   173 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.2 mEq/L
   32 mg/dL
   108 mEq/L
   149 mEq/L
   29.4 %
   7.8 K/uL
        [image002.jpg]
                            [**2129-12-25**]  04:54 AM
                            [**2129-12-25**]  04:10 PM
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
   WBC
   6.9
   7.5
   8.5
   7.6
   7.8
   Hct
   30.4
   29.5
   28.7
   29.8
   29.4
   Plt
   [**Telephone/Fax (3) 3001**]06
   344
   Cr
   2.0
   2.0
   2.0
   2.0
   1.7
   1.7
   1.5
   1.2
   1.2
   1.1
   Glucose
   184
   129
   234
   200
   227
   188
   200
   160
   213
   173
   Other labs: PT / PTT / INR:16.4/93.0/1.5, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   PO vanc + IV flagyl for total two week course
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Resolved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Now multifactorial - some volume overload + weakness. Goal TBB - 1L
   today. Family to decide on trach.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-28**] 10:40 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes, patient remains critically ill.
   ------ Protected Section ------
   Addendum
 MICU Attending
   Patient
s son [**Name (NI) **] called to report that after speaking with his
   brother, they do not want to pursue trach and peg and would favor
   extubation following medical optimization with a plan to transition to
   a more comfort-centered approach to care should she develop recurrent
   respiratory failure. Will continue diuresis and medical optimization
   for now with plan to try extubation in AM once family is here at the
   bedside.
   Patient is critically ill, total time 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2129-12-29**] 02:37 PM ------

2129-12-30 07:41:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   Son discussed with [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 749**] goals of care; decided that once
   extubated, pt would be DNR/DNI
   Diuresed aggressively in preparation for extubation
   D/c'ed tube feeds at 6 am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 12:21 AM
   Metronidazole - [**2129-12-30**] 04:52 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-12-30**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 86 (71 - 97) bpm
   BP: 127/60(76) {108/41(58) - 145/65(84)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  2,124 mL
                                                                    714 mL
   PO:
             TF:
                                                                    722 mL
                                                                    181 mL
   IVF:
                                                                    652 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,085 mL
   Urine:
                                                                  2,590 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -746 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (167 - 387) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 100%
   VBG: 7.46/52/69
   Ve: 4.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles
   at bases )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Unable to follow simple commands, Responds to: sternal rub
   Labs / Radiology
   359 K/uL
   10.3 g/dL
   142 mg/dL
   0.9 mg/dL
   39 mEq/L
   3.4 mEq/L
   26 mg/dL
   98 mEq/L
   141 mEq/L
   30.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
   WBC
   7.5
   8.5
   7.6
   7.8
   7.3
   Hct
   29.5
   28.7
   29.8
   29.4
   30.3
   Plt
   241
   291
   306
   344
   359
   Cr
   2.0
   2.0
   1.7
   1.7
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 2988**]88
   200
   160
   [**Telephone/Fax (3) 3053**]
   142
   Other labs: PT / PTT / INR:15.2/30.0/1.3, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   87 year-old female with history of type 2 diabetes presenting with
   hypovolemic shock due to severe C. difficile colitis, s/p hypoxemic
   respiratory failure following aggressive IVF resuscitation and then
   failed extubation with hypercarbic respiratory failure.
   1. Respiratory failure: Initially hypoxemic following aggressive IVF
   resuscitation and now status post failed extubation with hypercarbic
   respiratory failure.   Multifactorial including prior pulmonary
   infection, muscle weakness, extrinsic compression from scoliosis.
   Status post completion of seven-day course of Zosyn for VAP. Patient
   diuresed over many days on lasix drip.
   - family wishes are extubation to DNR/DNI status.  Patient is currently
   DNR.
   - no further lasix drip, as patient with metabolic contraction
   alkalosis
   - monitor VBGs and patient mental status for planned extubation in next
   1-2 days
   2. Severe C. difficile colitis: Presented in hypovolemic shock, now
   resolved.
   - Continue metronidazole/vancomycin for 14-day course started
   [**12-26**](after completion of Zosyn for VAP)
   3 Acute on chronic renal failure: Resolved.  Baseline creatinine
   1.3-1.4.  ARF initially likely ATN from initial shock, now consider new
   baseline.
   - Continue to monitor and renally dose medications
   4 NSTEMI: No known history of CAD.  Likely demand ischemia in setting
   of shock.
   - Continue aspirin, metoprolol, statin
   5 DM2: Currently hyperglycemic in the setting of infection.
   - cont glargine and insulin sliding scale
   6 Anemia: Normocytic.  Likely anemia of chronic disease and chronic
   renal failure.  Stable.
   ICU Care
   Nutrition: tube feeds on hold
   Glycemic Control:  standing and sliding scale insulin
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  precautions
   Comments:
   Communication:  son
   [**Name (NI) 156**] status: DNR / DNI
   Disposition:ICU

2129-12-30 08:56:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Further diuresed overnight
   Remained on [**5-30**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 12:21 AM
   Metronidazole - [**2129-12-30**] 04:52 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-30**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 86 (71 - 97) bpm
   BP: 127/60(76) {108/41(58) - 145/65(84)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  2,124 mL
                                                                    740 mL
   PO:
             TF:
                                                                    722 mL
                                                                    181 mL
   IVF:
                                                                    652 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                  1,085 mL
   Urine:
                                                                  2,590 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -746 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (167 - 387) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 5.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   359 K/uL
   142 mg/dL
   0.9 mg/dL
   39 mEq/L
   3.4 mEq/L
   26 mg/dL
   98 mEq/L
   141 mEq/L
   30.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2129-12-25**]  09:49 PM
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
   WBC
   7.5
   8.5
   7.6
   7.8
   7.3
   Hct
   29.5
   28.7
   29.8
   29.4
   30.3
   Plt
   241
   291
   306
   344
   359
   Cr
   2.0
   2.0
   1.7
   1.7
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 2988**]88
   200
   160
   [**Telephone/Fax (3) 3053**]
   142
   Other labs: PT / PTT / INR:15.2/30.0/1.3, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Po Vanc + Flagyl
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Contraction alkalosis today. Will hold lasix drip and reasses for
   potential extubation.
 SHOCK, SEPTIC
   Resolved.
   ICU Care
   Nutrition:
   Comments: On hold for extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Do not re-intubate
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-12-31 08:31:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   O/N started to pull low tidal volumes, has to increase PS to 10, PEEP
   stayed at 5
   Then hypoventilating, minute ventilation 2-3 L, placed back on rate to
   support volumes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 12:00 PM
   Metronidazole - [**2129-12-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-31**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 07:40 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-12-31**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 77 (72 - 92) bpm
   BP: 132/53(73) {110/45(62) - 150/62(80)} mmHg
   RR: 16 (8 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  1,989 mL
                                                                    344 mL
   PO:
             TF:
                                                                    436 mL
   IVF:
                                                                    743 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    246 mL
   Urine:
                                                                  2,380 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -391 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 435 (239 - 435) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: VBG pH 7.39 pCO2 69 pO2 44
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   348 K/uL
   9.6 g/dL
   78 mg/dL
   0.7 mg/dL
   42 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   141 mEq/L
   28.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2129-12-26**]  05:17 AM
                             [**2129-12-26**]  01:44 PM
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
   WBC
   7.5
   8.5
   7.6
   7.8
   7.3
   4.4
   Hct
   29.5
   28.7
   29.8
   29.4
   30.3
   28.1
   Plt
   241
   291
   306
   344
   359
   348
   Cr
   2.0
   1.7
   1.7
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   Glucose
   200
   227
   188
   200
   160
   213
   173
   178
   142
   78
   Other labs: PT / PTT / INR:15.3/31.0/1.4, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   87 year-old female with history of type 2 diabetes presenting with
   hypovolemic shock due to severe C. difficile colitis, s/p hypoxemic
   respiratory failure following aggressive IVF resuscitation and then
   failed extubation with hypercarbic respiratory failure.
   1. Respiratory failure: Initially hypoxemic following aggressive IVF
   resuscitation and now status post failed extubation with hypercarbic
   respiratory failure.   Multifactorial including prior pulmonary
   infection, muscle weakness, extrinsic compression from scoliosis.
   Status post completion of seven-day course of Zosyn for VAP. Patient
   diuresed over many days on lasix drip. Held lasix drip and contraction
   alkalosis has resolve.
   - family wishes are extubation to DNR/DNI status.  Patient is currently
   DNR.
   - patient requiring increasing vent settings, hypoventilating, off
   sedation
 with elevated bicarb. Will attempt acetazolamide to see if
   can decrease bicarb and improve respiratory drive.
   - monitor VBGs
   2. Severe C. difficile colitis: Presented in hypovolemic shock, now
   resolved.
   - Continue metronidazole/vancomycin for 14-day course started
   [**12-26**](after completion of Zosyn for VAP)
   3 Acute on chronic renal failure: Resolved.  Baseline creatinine
   1.3-1.4.  ARF initially likely ATN from initial shock, now consider new
   baseline.
   - Continue to monitor and renally dose medications
   4 NSTEMI: No known history of CAD.  Likely demand ischemia in setting
   of shock.
   - Continue aspirin, metoprolol, statin
   5 DM2: BG improved. Low this am, but restarting tube feeds
   - cont glargine and insulin sliding scale
   6 Anemia: Normocytic.  Likely anemia of chronic disease and chronic
   renal failure.  Stable.
   ICU Care
   Nutrition:
   Comments: restart tube feeds
   Glycemic Control:  fixed and sliding scale insulin
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  on precautions
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-01-01 07:56:00 Physician Resident Progress Note
Chief Complaint: C. diff colitis --> respiratory failure [**2-26**] fluid
   overload after resuscitation
   24 Hour Events:
   Did not look ready to be extubated yesterday; did not end up doing this
   yesterday because was failing SBT, not pulling big volumes
   Acetazolamide given for metabolic alkalosis
   Restarted tube feeds yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-1-1**] 04:09 AM
   Vancomycin - [**2130-1-1**] 06:07 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2129-12-31**] 09:15 AM
   Pantoprazole (Protonix) - [**2129-12-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2130-1-1**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 91 (70 - 92) bpm
   BP: 98/39(53) {91/39(53) - 151/77(93)} mmHg
   RR: 13 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  1,788 mL
                                                                    673 mL
   PO:
             TF:
                                                                    403 mL
                                                                    235 mL
   IVF:
                                                                    660 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,011 mL
                                                                    275 mL
   Urine:
                                                                  1,011 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 703
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: ///34/
   Ve: 5.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube; significant
   erythematous area above vent tape on right side of face c/w dermatitis
   but with brown oozing area
   Cardiovascular: (S1: Normal), (S2: Normal) no m/r/g apprec under vent
   sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   pulses felt faintly under socks
   Respiratory / Chest: (Breath Sounds: Clear : ), anterior exam on vent
   Skin:  Warm; see above re face
   Neurologic: Responds to: loud voice. Does not follow commands.
   Labs / Radiology
   354 K/uL
   9.7 g/dL
   168 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   29.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2129-12-27**]  03:41 AM
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
                             [**2129-12-31**]  03:06 PM
                             [**2130-1-1**]  03:55 AM
   WBC
   8.5
   7.6
   7.8
   7.3
   4.4
   4.2
   Hct
   28.7
   29.8
   29.4
   30.3
   28.1
   29.5
   Plt
   291
   306
   344
   359
   348
   354
   Cr
   1.7
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   0.7
   0.7
   Glucose
   188
   200
   160
   [**Telephone/Fax (3) 3053**]
   142
   78
   168
   Other labs: PT / PTT / INR:14.6/29.8/1.3, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Not doing well in terms of independence from vent though CXR and vent
   settings would suggest that she should be improving in terms of
   respiratory capacity. Suggests neurologic problem.
   - minimize sedation
   - no extubation today
   - still trying to optimize status for extubation; did talk to son who
   understands that if she does not improve on vent would need to be
   extubated nonetheless, also understands that if this were the case this
   would be terminal extubation
   - we will assess for improvement over today and tonight, consider
   holding tube feeds tonight in prep for extubation tomorrow
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continuing to treat w flagyl/PO vanc.
 IMPAIRED SKIN INTEGRITY
   Worsening erythematous and weeping area on face may be poor skin
   integrity secondary to long-term venting/taping/etc; consider treating
   as skin infection if does not improve with ongoing nursing care.
   GOALS OF CARE
   Affirmed with son this AM that goal is DNR/DNI, he understands she can
   not be vented forever, understands that we are awaiting improvement but
   at some point may need to extubate even if we think she will not do
   well off the vent.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-31**] 06:44 PM 30 mL/hour
   Glycemic Control:  tighten scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2130-01-02 08:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock due to C. difficile, respiratory failure
   24 Hour Events:
   - Ordered provigil
   - Dr. [**Last Name (STitle) 2141**] spoke to her son and explained that patient
s mental
   status and level of participation in breathing not allowing us to
   safely extubate; son understands that this is not a situation that can
   go on indefinitely and understands that she may need to be extubated
   even if she is likely to do poorly; reaffirmed desire to not have
   trach+PEG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-1-2**] 04:17 AM
   Vancomycin - [**2130-1-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-2**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 77 (71 - 95) bpm
   BP: 137/54(74) {110/42(59) - 138/58(77)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  2,252 mL
                                                                    773 mL
   PO:
             TF:
                                                                    721 mL
                                                                    265 mL
   IVF:
                                                                    550 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    255 mL
   Urine:
                                                                    885 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,367 mL
                                                                    518 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   General: Intubated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   340 K/uL
   9.4 g/dL
   91 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   22 mg/dL
   104 mEq/L
   138 mEq/L
   27.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
                             [**2129-12-31**]  03:06 PM
                             [**2130-1-1**]  03:55 AM
                             [**2130-1-2**]  03:19 AM
   WBC
   7.6
   7.8
   7.3
   4.4
   4.2
   4.1
   Hct
   29.8
   29.4
   30.3
   28.1
   29.5
   27.8
   Plt
   [**Telephone/Fax (3) 3134**]48
   354
   340
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   0.7
   0.7
   0.7
   Glucose
   200
   160
   213
   173
   178
   142
   78
   168
   91
   Other labs: PT / PTT / INR:14.1/27.7/1.2, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   87F PMH dementia initially admitted with hypovolemic / septic shock and
   respiratory failure. Failed extubation last week (RSBI had been in the
   80s) due to hypoventilation / hypercapnea. Remains dependent on
   ventilatory support.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Primary issue still appears to be decreased central respiratory drive.
   Unclear if the process is metabolic or structural (i.e., central
   lesion, CVA, etc.) We started initiated Diamox yesterday in an effort
   to address her significant metabolic alkalosis
 her bicarb is improved
   today, but her respiratory drive remains depressed. She may have some
   improvement over the next day as she equilibrates from an acid/base
   stand-point. However, her prognosis for a successful extubation is
   poor. Will need to discuss with her family about extubation and her
   prognosis. Can consider central respiratory stimulant
   Affirmed with son this AM that goal is DNR/DNI, he understands she can
   not be vented forever, understands that we are awaiting improvement but
   at some point may need to extubate even if we think she will not do
   well off the vent.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continuing to treat w flagyl/PO vanc.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Opens eyes to voice, but not following commands. Chronic issue but
   concern that toxic-metabolic insults (infection, alkalosis) may be
   contributing to her altered mental status.
 MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   On Lipitor, aspirin, hemodynamically stable. Suspect demand ischemia
   rather than acute coronary artery thrombus.
 ACUTE RENAL FAILURE
   Resolved from admission.
 IMPAIRED SKIN INTEGRITY
   Worsening erythematous and weeping area on face may be poor skin
   integrity secondary to long-term venting/taping/etc; consider treating
   as skin infection if does not improve with ongoing nursing care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-1-2**] 04:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-01-02 11:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   See previous noted for details. Briefly, 87 year old woman with
   baseline dementia a/w hypovolemic shock , respiratory failure. Now
   cont. respiratory failure likely [**2-26**] weakness/myopathy. Failed
   extubation x 1 [**2-26**] hypercarbia.
   24 Hour Events:
   None
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-1-2**] 04:17 AM
   Vancomycin - [**2130-1-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-2**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 70 (68 - 95) bpm
   BP: 152/68(88) {110/42(59) - 152/68(88)} mmHg
   RR: 20 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  2,252 mL
                                                                    855 mL
   PO:
             TF:
                                                                    721 mL
                                                                    326 mL
   IVF:
                                                                    550 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    340 mL
   Urine:
                                                                    885 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,367 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   Closes eyes to command. Weak hand squeeze
   RRR no m/r/g
   Lungs clear anteriorly
   Extremities warm , decreased edema.
   Labs / Radiology
   9.4 g/dL
   340 K/uL
   91 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   22 mg/dL
   104 mEq/L
   138 mEq/L
   27.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2129-12-27**]  02:48 PM
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
                             [**2129-12-31**]  03:06 PM
                             [**2130-1-1**]  03:55 AM
                             [**2130-1-2**]  03:19 AM
   WBC
   7.6
   7.8
   7.3
   4.4
   4.2
   4.1
   Hct
   29.8
   29.4
   30.3
   28.1
   29.5
   27.8
   Plt
   [**Telephone/Fax (3) 3134**]48
   354
   340
   Cr
   1.5
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   0.7
   0.7
   0.7
   Glucose
   200
   160
   213
   173
   178
   142
   78
   168
   91
   Other labs: PT / PTT / INR:14.1/27.7/1.2, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Continues on po vanc + flagyl
   Shock : Resolved
   Respiratory Failure: Likely secondary to weakness. ? central component
   with apnea over the weekend. ?  contribution of alkalosis. Check VBG
   today. Family meeting re: terminal extubation. family has said they do
   not want trach.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-1-2**] 04:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-01-03 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock due to C. difficile colitis, respiratory failure
   24 Hour Events:
   - Received acetazolamide with improvement in VBG pH from 7.44 to 7.34
   - Son coming today at noon for likely terminal extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-1-3**] 04:00 AM
   Vancomycin - [**2130-1-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-1-2**] 08:00 AM
   Pantoprazole (Protonix) - [**2130-1-2**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-3**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 85 (65 - 87) bpm
   BP: 114/46(62) {109/40(60) - 154/68(88)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  1,937 mL
                                                                    667 mL
   PO:
             TF:
                                                                    461 mL
                                                                    231 mL
   IVF:
                                                                    586 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    205 mL
   Urine:
                                                                    785 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 13 cmH2O
   Compliance: 56.2 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 7.2 L/min
   Physical Examination
   General: Intubated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Erythema at sites of prior tape
   Neurologic: Follows simple commands, Responds to: Voice, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   330 K/uL
   9.0 g/dL
   51 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   27.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
                             [**2129-12-31**]  03:06 PM
                             [**2130-1-1**]  03:55 AM
                             [**2130-1-2**]  03:19 AM
                             [**2130-1-3**]  03:25 AM
   WBC
   7.6
   7.8
   7.3
   4.4
   4.2
   4.1
   4.4
   Hct
   29.8
   29.4
   30.3
   28.1
   29.5
   27.8
   27.1
   Plt
   [**Telephone/Fax (3) 3134**]48
   354
   340
   330
   Cr
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   160
   213
   173
   178
   142
   78
   168
   91
   51
   Other labs: PT / PTT / INR:14.2/29.8/1.2, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   87F PMH dementia initially admitted with hypovolemic / septic shock and
   respiratory failure. Failed extubation last week (RSBI had been in the
   80s) due to hypoventilation / hypercapnea. Remains dependent on
   ventilatory support.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   The patient has decreased respiratory drive likely due to ICU
   myopathy.  Her prognosis for a successful extubation is poor.
   Extubation was attempted last week with reintubation due to hypercarbia
   after one hour and a half.  Her son is aware of the situation and will
   be today for likely terminal extubation.  Will have morphine gtt
   available for comfort after extubation.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   Presented in shock but now hemodynamically stable for greater than one
   week.  Continuing to treat with flagyl IV and vancomycin PO for a
   14-day course to end [**2130-1-8**].
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Opens eyes to voice and following simple commands. Chronic issue but
   concern that toxic-metabolic insults (infection, alkalosis) may be
   contributing to her altered mental status.
 MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   Demand ischemia rather than acute coronary artery thrombus.  Currently
   on aspirin, metoprolol, statin.
 ACUTE RENAL FAILURE
   Resolved from admission.
 IMPAIRED SKIN INTEGRITY
   Poor skin integrity secondary to long-term venting/taping/etc;
   supportive care.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-1-2**] 04:08 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-01-03 09:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   Admitted with hypovolemic shock [**2-26**] c. diff. Course c/b respiratory
   failure, failed extubation x 1 [**2-26**] hypercarbia.
   24 Hour Events:
   Acetazolamiode yesterday for metabolic alkalosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2130-1-3**] 04:00 AM
   Vancomycin - [**2130-1-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-1-3**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2130-1-3**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-1-3**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 79 (65 - 87) bpm
   BP: 120/48(66) {109/40(60) - 154/68(88)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 60 kg
             Total In:
                                                                  1,937 mL
                                                                    799 mL
   PO:
             TF:
                                                                    461 mL
                                                                    264 mL
   IVF:
                                                                    586 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    225 mL
   Urine:
                                                                    785 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 13 cmH2O
   Compliance: 56.2 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 5.7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, min. responsive
   Labs / Radiology
   9.0 g/dL
   330 K/uL
   51 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   27.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2129-12-28**]  03:37 AM
                             [**2129-12-28**]  04:13 PM
                             [**2129-12-29**]  03:46 AM
                             [**2129-12-29**]  09:37 PM
                             [**2129-12-30**]  03:57 AM
                             [**2129-12-31**]  03:46 AM
                             [**2129-12-31**]  03:06 PM
                             [**2130-1-1**]  03:55 AM
                             [**2130-1-2**]  03:19 AM
                             [**2130-1-3**]  03:25 AM
   WBC
   7.6
   7.8
   7.3
   4.4
   4.2
   4.1
   4.4
   Hct
   29.8
   29.4
   30.3
   28.1
   29.5
   27.8
   27.1
   Plt
   [**Telephone/Fax (3) 3134**]48
   354
   340
   330
   Cr
   1.2
   1.2
   1.1
   0.9
   0.9
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   160
   213
   173
   178
   142
   78
   168
   91
   51
   Other labs: PT / PTT / INR:14.2/29.8/1.2, CK / CKMB /
   Troponin-T:323/5/0.67, ALT / AST:13/42, Alk Phos / T Bili:172/0.3,
   Differential-Neuts:74.3 %, Lymph:15.0 %, Mono:5.8 %, Eos:4.6 %, Lactic
   Acid:0.5 mmol/L, Albumin:2.6 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   87 year old woman with dementia admitted with hypovolemic shock. Now
   with persistent respiratory failure. Plan as per resident note.
   Briefly, hypercardic respiratory failure is likely [**2-26**] weakness,
   myopathy. Given underlying dementia and debillitated state from
   co-morbidities unlikely to recover quickly , if at all. Family has
   refused trach and plan for potentialy terminal extubation today.
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-17**] 06:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill